US08076336B2
3,6-Dichloro-4-methanesulfonylpyridazine
3,4,6-Trichloropyridazine (2.5 g; 13.6 mmol) and methanesulfinic acid sodium salt (2.78 g, 27.26 mmol) were stirred in 20 ml of a solvent mixture of water/THF/DMF (5:10:5) at RT for 30 h. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and saturated ammonium chloride solution. The organic phase was removed and concentrated, and the crude product was purified by flash chromatography (dichloromethane:methanol). Yield: 1.4 g

reactant | 3,4,6-Trichloropyridazine | 13.6 mmol, 2.5 g | ClC=1N=NC(=CC1Cl)Cl | C4HCl3N2
reactant | methanesulfinic acid sodium salt | 27.26 mmol, 2.78 g | [Na+].CS(=O)[O-]
solvent | water THF DMF | O.C1CCOC1.CN(C)C=O
product | 3,6-Dichloro-4-methanesulfonylpyridazine | ClC=1N=NC(=CC1S(=O)(=O)C)Cl | C5H4Cl2N2O2S
